US08445490B2
Tert-butyl 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate (2.91 g, 4.85 mmol) and 4 N HCl in Dioxane (20 mL) were stirred for 16 hs then concentrated under vacuum to give 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid which was carried to the next step without purification.

reactant | Tert-butyl 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate | 4.85 mmol, 2.91 g | BrCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C25H27BrF3N5O4
reactant | HCl | 4 N | Cl | ClH
solvent | Dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid | BrCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C21H19BrF3N5O4
